US05063243
4-Hydroxyphenethyl 2-cyano-3-(3,4-dihydroxyphenyl)-2-propenoate (Compound 20)
After the reduction of 3,4-dimethoxycinnamic acid to 3-(3,4-dimethoxyphenyl)propanol in the usual manner followed by condensation with cyanoacetic acid according to the procedure in Example 3, the product was demethylated with boron trichloride and condensed with 3,4-dihydroxybenzaldehyde to give the following compound.

reactant | 3,4-dimethoxycinnamic acid | COC=1C=C(C=CC(=O)O)C=CC1OC | C11H12O4
reactant | 3-(3,4-dimethoxyphenyl)propanol | COC=1C=C(C=CC1OC)CCCO | C11H16O3
reactant | cyanoacetic acid | C(#N)CC(=O)O | C3H3NO2
reactant | boron trichloride | B(Cl)(Cl)Cl | BCl3
reactant | 3,4-dihydroxybenzaldehyde | OC=1C=C(C=O)C=CC1O | C7H6O3
product | 4-Hydroxyphenethyl 2-cyano-3-(3,4-dihydroxyphenyl)-2-propenoate | C(#N)C(C(=O)OCCC1=CC=C(C=C1)O)=CC1=CC(=C(C=C1)O)O | C18H15NO5
